US08426447B2
A vial was charged with (S)-2-amino-4′-fluoro-7′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2′-ol (45.0 mg, 0.118 mmol), cesium carbonate (57.7 mg, 0.177 mmol), and DMF (787 μL). The mixture was stirred vigorously for 15 min, then 2-cyano-2-methylpropyl trifluoromethanesulfonate (22.56 μL, 0.130 mmol) was added via syringe. The resulting mixture was stirred at room temperature for 19 hours before being diluted with water (10 mL) and EtOAc (10 mL). The layers were separated, and the aqueous layer was extracted with EtOAc (2×10 mL). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was purified by chromatography on a 12 g Redi-Sep column, eluting with 5-60% MeOH/DCM to give (S)-3-(2-amino-5′-fluoro-2′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yloxy)-2,2-dimethylpropanenitrile as an off-white solid. (MS: MH+=463).

reactant | (S)-2-amino-4′-fluoro-7′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2′-ol | 0.118 mmol, 45.0 mg | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)O)F)C=2C(=NC=CC2)F)N1 | C20H13F2N3O3
reactant | cesium carbonate | 0.177 mmol, 57.7 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 787 μL | CN(C)C=O | C3H7NO
reactant | 2-cyano-2-methylpropyl trifluoromethanesulfonate | 0.130 mmol, 22.56 μL | FC(S(=O)(=O)OCC(C)(C)C#N)(F)F | C6H8F3NO3S
solvent | water | 10 mL | O | H2O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (S)-3-(2-amino-5′-fluoro-2′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yloxy)-2,2-dimethylpropanenitrile | NC=1OC[C@]2(C3=CC(=CC(=C3OC=3C=CC(=CC23)C=2C(=NC=CC2)F)F)OCC(C#N)(C)C)N1 | C25H20F2N4O3
